US05051413
The starting material is manufactured as follows: Reaction of crotonaldehyde with isocyanoacetic acid ethyl ester in a manner analogous to that described in Example 1 yields 5-(propen-1-yl)-2-oxazoline-4-carboxylic acid ethyl ester. By hydrolysis of the 5-(propen-1-yl)-2-oxazoline-4-carboxylic acid ethyl ester analogously to Example 1, 2-formylamino-3-hydroxy-4-hexenoic acid ethyl ester is obtained. Reaction of the 2-formylamino-3-hydroxy-4-hexenoic acidethyl ester with thionyl bromide and subsequent treatment with triethyl phosphite in a manner analogous to that described in Example 1 (12 hours) yields E-2-formylamino-5-diethylphosphono-5-methyl-3-pentenoic acid ethyl ester.

reactant | 2-formylamino-3-hydroxy-4-hexenoic acidethyl ester | C(C)OC(C(C(C=CC)O)NC=O)=O | C9H15NO4
reactant | thionyl bromide | S(=O)(Br)Br | Br2OS
reactant | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
product | E-2-formylamino-5-diethylphosphono-5-methyl-3-pentenoic acid ethyl ester | C(C)OC(C(\C=C\C(C)P(=O)(OCC)OCC)NC=O)=O | C13H24NO6P
